US04735959
4-[(1-(2-Piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzaldehyde
A quantity of 6.6 gm (62 m mol) of sodium carbonate was heated together with 62 ml of ethylene glycol in a bath at 170° C., and, within one minute, 6.2 gm (11 m mol) of N1 -[4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzoyl]-N2 -tosyl-hydrazine [melting point 195° C. (decomposition)] were added thereto, with rapid stirring, whereupon there was a vigorous development of gas. The mixture was then heated for a further two and one-half minutes at 170° C. and then immediately poured onto ice. It was extracted with ether, and the ether solution was dried, filtered, and concentrated by evaporation in vacuo. The evaporation residue was purified by column chromatography on silica gel [chloroform/acetone (20:1)].

reactant | sodium carbonate | 6.6 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | N1 -[4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzoyl]-N2 -tosyl-hydrazine | 6.2 gm | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C(=O)NNS(=O)(=O)C2=CC=C(C)C=C2)C=C1)C(=O)N | C31H38N4O4S
solvent | ethylene glycol | 62 ml | C(CO)O | C2H6O2
product | 4-[(1-(2-Piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzaldehyde | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C=O)C=C1)C(=O)N | C24H30N2O2
